US04788195
N-[4-(2-Pyridinyl)-2-pyrimidinyl]-1,4-benzenediamine, dihydrochloride
A 12.86 g portion of N-[4-[[4-(2-pyridinyl)-2-pyrimidinyl]amino]phenyl]acetamide in a mixture of 40 ml of water and 40 ml of concentrated hydrochloric acid was refluxed for 30 minutes and then cooled. The solid was collected and dried, giving 10.84 g of the desired product, mp 285°-288° C.

reactant | N-[4-[[4-(2-pyridinyl)-2-pyrimidinyl]amino]phenyl]acetamide | N1=C(C=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)NC(C)=O | C17H15N5O
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | N-[4-(2-Pyridinyl)-2-pyrimidinyl]-1,4-benzenediamine, dihydrochloride | 10.84 g | Cl.Cl.N1=C(C=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N | InChI=1S/C15H13N5.2ClH/c16-11-4-6-12(7-5-11)19-15-18-10-8-14(20-15)13-3-1-2-9-17-13;;/h1-10H,16H2,(H,18,19,20);2*1H
